US04120690
Preparation of 2-acetoxyamino-4-(3-trifluoromethylphenylcarbamoylmethyl)thiazole
To a solution of 5.0 g (0.017 mole) of 2-amino-4-(3-trifluoromethylphenylcarbamoylmethyl)thiazole in 22 ml of pyridine, there was added dropwise 2.8 g (0.03 mole) of methyl chloroformate. The solution was stirred and heated at 40°-45° for eighteen hours. The mixture was poured into 300 ml of cold water and stirring induced crystal formation. The solid was collected and the filter cake was washed with water. There was obtained 4.9 g of product, m.p. 137°-40°. N.M.R. (dimethyl-d6 sulfoxide) ∂ 3.6-3.9 (OCH3, CH2), 6.8 (hetero-aromatic), 7.3-8.1 (aromatic), 10.4 (HNC=O).

reactant | 2-amino-4-(3-trifluoromethylphenylcarbamoylmethyl)thiazole | 0.017 mole, 5.0 g | NC=1SC=C(N1)CC(NC1=CC(=CC=C1)C(F)(F)F)=O | C12H10F3N3OS
reactant | methyl chloroformate | 0.03 mole, 2.8 g | ClC(=O)OC | C2H3ClO2
reactant | water | 300 ml | O | H2O
reactant | pyridine | 22 ml | N1=CC=CC=C1 | C5H5N
product | 2-acetoxyamino-4-(3-trifluoromethylphenylcarbamoylmethyl)thiazole | 4.9 g | C(C)(=O)ONC=1SC=C(N1)CC(NC1=CC(=CC=C1)C(F)(F)F)=O | C14H12F3N3O3S
